US04400293
Hydrogen chloride gas is passed into a mixture of 9.6 g of paraformaldehyde and 40 ml of 37% aqueous hydrochloric acid up to the formation of a clear solution. Subsequently, a solution of 30 g of n-butyloxybenzene in 20 ml of benzene is added dropwise at 15°-20° and the reaction mixture stirred for 4 hours at this temperature. The organic phase is separated off, washed twice with 30 ml amounts of water, dried and distilled. After distilling off the benzene, there is obtained 27 g of 4-n-butyloxybenzyl chloride; b.p. 102°/1 m bar.

reactant | Hydrogen chloride | Cl | ClH
reactant | paraformaldehyde | 9.6 g | C=O | CH2O
reactant | hydrochloric acid | 40 ml | Cl | ClH
reactant | n-butyloxybenzene | 30 g | C(CCC)OC1=CC=CC=C1 | C10H14O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 4-n-butyloxybenzyl chloride | 27 g | C(CCC)OC1=CC=C(CCl)C=C1 | C11H15ClO
